US07906517B2
Tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-bromo-4,5-dimethoxy-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (150 mg) is dissolved in 1,4-dioxane (3 ml) and thereto are added (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (128 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (32 mg) and cesium carbonate (196 mg), and the mixture is stirred under nitrogen atmosphere at 80° C. overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) to give tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4′-fluoro-5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (140 mg). MS (m/z): 796 [M+H]+

reactant | Tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-bromo-4,5-dimethoxy-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 150 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)Br)C=C(C1)C(F)(F)F)(F)F | C30H32BrF6N3O5
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 128 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | cesium carbonate | 196 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4′-fluoro-5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 140 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)C2=C(C=C(C(=C2)C(C)C)F)OC)C=C(C1)C(F)(F)F)(F)F | C40H44F7N3O6
